US05459243
4-Chloro-2-trimethylsilylethoxy-pyrimidine.
A solution of trimethylsilylethanol (10 g, 85 mmol) in 30 ml anhydrous THF was cooled to -68° C. in a dry ice/isopropanol bath. A solution of n-butyl lithium (33.8 ml, 2.5M in THF) was added dropwise over 15 min. The solution was stirred for 10 min at this temperature and then added to a solution of 2,4- dichloropyrimidine (12.62 g. 85 mmol) in 75 ml THF at -35° C. to -25° C. The final yellowish solution was allowed to come to room temperature under an argon atmosphere then stirred at this temperature for 1 hr. This solution was diluted with 200 mL of Et2O and washed with cold water (100 ml), sat'd NaHCO3 (100 ml) and brine, then dried over MgSO4, filtered and evaporated to yield a tan syrup. This syrup is crystallized from hexanes at -60° C. to yield the title compound as a light yellow solid, 17.8 g (91%). 1H NMR (CDCl3): δ8.36 (d, 1H, H-6), 6.93 (d, 1H, 5-H), 4.43 and 1.17 (t,t; 4H; CH2CH2), 1.06 (bs, 9H. TMS).

reactant | trimethylsilylethanol | 85 mmol, 10 g | C[Si](C)(C)C(C)O | C5H14OSi
reactant | n-butyl lithium | 2.5M, 33.8 ml | C(CCC)[Li]
reactant | 2,4- dichloropyrimidine | 85 mmol, 12.62 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | THF | 30 ml | C1CCOC1 | C4H8O
reactant | THF | 75 ml | C1CCOC1 | C4H8O
solvent | Et2O | 200 mL | CCOCC | C4H10O
product | 4-Chloro-2-trimethylsilylethoxy-pyrimidine | ClC1=NC(=NC=C1)OCC[Si](C)(C)C | C9H15ClN2OSi
